US09447046B2
To a solution of aniline (10.0 g, 107 mmol) in DCM (50 mL) was added TFAA (24.8 g, 118 mmol) and TEA (22 mL, 160 mmol). The mixture was stirred at r.t. for 2 h. The reaction was washed with water, dried (Na2SO4), and concentrated to give 17.7 g (87%) of 2,2,2-trifluoro-N-phenylacetamide as a white solid.

reactant | aniline | 107 mmol, 10.0 g | NC1=CC=CC=C1 | C6H7N
reactant | TFAA | 118 mmol, 24.8 g | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-trifluoro-N-phenylacetamide | 17.7 g, 87% | FC(C(=O)NC1=CC=CC=C1)(F)F | C8H6F3NO
